US09422292B2
To a solution of (R)-8-bromo-6-(5-chloropyridin-2-yl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine (100 mg, 0.24 mmol) in 1,4-dioxane/H2O (10:1, 2 mL) was added 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2(1H)-one (65 mg, 0.29 mmol), Cesium carbonate (156 mg, 0.48 mmol) and Tetrakis(triphenylphosphine)palladium(0) (18.4 mg, 0.025 mmol). The mixture was purged with N2 and stirred in the microwave at 130° C. for 0.5 hr. After filtration, concentrated in vacuo and purification by prep-TLC (elute: DCM:MeOH=15:1) gave (R)-5-(6-(5-chloropyridin-2-yl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2(1H)-one (30 mg, 30%).

reactant | (R)-8-bromo-6-(5-chloropyridin-2-yl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine | 0.24 mmol, 100 mg | BrC=1C=CC2=C(N(C[C@H](C=3N2C(=NN3)C)C)C3=NC=C(C=C3)Cl)C1 | C17H15BrClN5
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2(1H)-one | 0.29 mmol, 65 mg | CC1(OB(OC1(C)C)C=1C=CC(NC1)=O)C | C11H16BNO3
reactant | Cesium carbonate | 0.48 mmol, 156 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane H2O | 2 mL | O1CCOCC1.O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.025 mmol, 18.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-5-(6-(5-chloropyridin-2-yl)-1,4-dimethyl-5,6-dihydro-4H-benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepin-8-yl)pyridin-2(1H)-one | 30 mg, 30% | ClC=1C=CC(=NC1)N1C2=C(N3C([C@@H](C1)C)=NN=C3C)C=CC(=C2)C=2C=CC(NC2)=O | C22H19ClN6O
